US03970704
To a solution of 0.5 g. of trans/cis 3,7,11-trimethyldodeca-2,4,10-trienoic acid in 15 ml. of benzene is added with stirring an equivalent amount of potassium bicarbonate. The mixture is stirred until the evolution of carbon dioxide ceases and then evaporated to yield potassium 3,7,11-trimethyldodeca-2,4,10-trienoate.

reactant | cis 3,7,11-trimethyldodeca-2,4,10-trienoic acid | CC(=CC(=O)O)\C=C/CC(CCC=C(C)C)C | C15H24O2
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | potassium 3,7,11-trimethyldodeca-2,4,10-trienoate | CC(=CC(=O)[O-])C=CCC(CCC=C(C)C)C.[K+] | InChI=1S/C15H24O2.K/c1-12(2)7-5-8-13(3)9-6-10-14(4)11-15(16)17;/h6-7,10-11,13H,5,8-9H2,1-4H3,(H,16,17);/q;+1/p-1
